US08541457B2
Synthesis of 2-(2-Cyclopropylacetylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use cyclopropylacetyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 27% yield; m.p. 136-139° C.; 1H NMR (CDCl3, 300 MHz) δ 7.34-7.24 (m, 5H), 5.97 (s, 1H), 4.57 (d, J=5.6 Hz, 2H), 2.60 (s, 3H), 2.39 (d, J=7.2 Hz, 2H), 1.05-1.00 (m, 1H), 0.71-0.68 (m, 2H), 0.27 (q, J=4.8 Hz, 2H); MS (ES+) m/z 330.1 (M+1).

reactant | cyclopropylacetyl chloride | C1(CC1)CC(=O)Cl | C5H7ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2-Cyclopropylacetylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 27% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(CC1CC1)=O)C | C17H19N3O2S
